US04556711
5-Phenyl-2-(1H)-pyrazinone (5 g) was added in portions during 30 minutes to a stirred mixture of fuming nitric acid (30 ml) and sulphuric acid (5 ml) at -5° C. The mixture was stirred in the cold for 30 minutes, and the temperature of the mixture was then allowed to rise to 10° C. The mixture was then poured into ice-water (250 ml) to give 5-(4-nitrophenyl)-2(1H)-pyrazinone recrystallised from dimethylformamide, m.p. 336°-8° C., δ(DMSO-d6) 8.15 and 8.30 (2d, 3- and 6- protons of pyrazinone ring), 8.18 (m, phenyl); νmax (Nujol mull) 3200-2500 (NH), 1690, 1675, 1545, 1510, 1349, 860 and 750 cm-1.

reactant | 5-Phenyl-2-(1H)-pyrazinone | 5 g | C1(=CC=CC=C1)C=1N=CC(NC1)=O | C10H8N2O
reactant | nitric acid | 30 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulphuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
product | 5-(4-nitrophenyl)-2(1H)-pyrazinone | [N+](=O)([O-])C1=CC=C(C=C1)C=1N=CC(NC1)=O | C10H7N3O3
